US04582837
2-(2'-Dimethylamino-4'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine
Prepared analogously to Example 56 from 2-(2'-dimethylamino-4'-hydroxy-phenyl)-imidazo[4,5-b]pyridine dihydrochloride and methanesulfonyl chloride. The product was purified over silica gel column [eluant: first methylene chloride, then methylene chloride/ethanol (50:1)].

reactant | 2-(2'-dimethylamino-4'-hydroxy-phenyl)-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.CN(C1=C(C=CC(=C1)O)C=1NC=2C(=NC=CC2)N1)C
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-(2'-Dimethylamino-4'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine | CN(C1=C(C=CC(=C1)OS(=O)(=O)C)C=1NC=2C(=NC=CC2)N1)C | C15H16N4O3S
